US05153318
a) 2-Amino-6-butoxy-9H-purine
The title compound was prepared in a manner analogous to the preparation of the compound of Example 11a, using 2-amino-6-chloropurine (Sigma, lot #69F4064, 4.4 g, 25.9 mmol) and sodium (Aldrich, lot #9621CL, 3 g, 129.5 mmol) in 250 mL n-butanol to give 4.4 g (21.2 mmol, 82%). mp=165° C.

reactant | 2-amino-6-chloropurine | 25.9 mmol, 4.4 g | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
reactant | sodium | 129.5 mmol, 3 g | [Na] | Na
reactant | n-butanol | 250 mL | C(CCC)O | C4H10O
product | 2-Amino-6-butoxy-9H-purine | NC1=NC(=C2N=CNC2=N1)OCCCC | C9H13N5O
